US04882350
1-benzyl-2-oxo-5-isopropoxy pyrrolidine.
To a suspension of 2.5 g of 5-isopropoxy-pyrrolidin-2-one, 1.23 g of potassium hydroxide hydrated to 85%, and 0.25 g of n-tetra-butylammonium bromide in 50 cm3 of tetrahydrofuran, there is added a solution of 2.99 g of benzyl bromide, without exceeding 30° C. After agitating for 1 hour at ambient temperature, the insoluble matter is filtered off and the solvent is evaporated. The residue (4 g) is distilled at 200° C. under 0.05 mbar. The distillate is chromatographed on silica (eluent: ethyl acetate--n-hexane, 1--1). 2.9 g of the expected product is obtained.

reactant | 5-isopropoxy-pyrrolidin-2-one | 2.5 g | C(C)(C)OC1CCC(N1)=O | C7H13NO2
reactant | potassium hydroxide | 1.23 g | [OH-].[K+]
reactant | benzyl bromide | 2.99 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | 1-benzyl-2-oxo-5-isopropoxy pyrrolidine | 2.9 g | C(C1=CC=CC=C1)N1C(CCC1OC(C)C)=O | C14H19NO2
